US09353107B2
Step-i: 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride
Using similar reaction conditions as described in step-iii of example-33, tert-butyl 4-(3-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (compound of step-i of example-33) (130 mg, 0.184 mmol) was deprotected using methanol/HCl in dioxane (5/5 mL) to give 86 mg, (72.8%) of the titled compound.

reactant | tert-butyl 4-(3-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.184 mmol, 130 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=C(C=CC3)N3CCN(CC3)C(=O)OC(C)(C)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C39H39FN6O4S
reactant | methanol HCl | CO.Cl
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride | 72.8% | Cl.FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC(=CC=C3)N3CCNCC3)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | InChI=1S/C34H31FN6O2S.ClH/c1-24-8-10-31(11-9-24)44(42,43)41-23-33(28-20-38-40(22-28)21-25-4-2-6-29(35)16-25)32-18-27(19-37-34(32)41)26-5-3-7-30(17-26)39-14-12-36-13-15-39;/h2-11,16-20,22-23,36H,12-15,21H2,1H3;1H
